US05874593
First, 35.6 mmol of 2-chlorobenzonitrile was dissolved in 50 ml of methanol, and 35.6 mmol of triethylarnine and 105 mmol of hydrogen sulfide were added thereto at room temperature, followed by adding 180 mmol of anhydrous hydrazine and keeping at the reflux temperature for 48 hours. The reaction mixture was evaporated under reduced pressure. The residue was dissolved in 50 ml of 5% hydrochloric acid, and 75 mmol of sodium nitrite was added thereto at 0° C. to cause reaction. After completion of the reaction, the reaction mixture was extracted with ethyl acetate to give 5-(2-chlorophenyl)tetrazole. Yield, 54%

reactant | 2-chlorobenzonitrile | 35.6 mmol | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | triethylarnine | 35.6 mmol | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | 105 mmol | S | H2S
reactant | hydrazine | 180 mmol | NN | H4N2
reactant | sodium nitrite | 75 mmol | N(=O)[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(2-chlorophenyl)tetrazole | ClC1=C(C=CC=C1)C1=NN=NN1 | C7H5ClN4
